US06399616B1
Step 2: 1-Benzyl-4-(1-piperazinyl)-1H-pyrrolo[3,2-c]pyridine
A solution of 4.5 g of 1-benzyl-4-bromo-1H-pyrrolo[3,2-c]pyridine in 25 ml of anhydrous ethanol and 8 g of piperazine are stirred at 120° C. for 15 hours under an inert atmosphere, then brought to ambient temperature and concentrated under reduced pressure. The residue is taken up in 200 ml of dichloromethane and washed with water. The organic phase is treated in conventional manner and then concentrated, enabling the expected product to be isolated.

reactant | 1-benzyl-4-bromo-1H-pyrrolo[3,2-c]pyridine | 4.5 g | C(C1=CC=CC=C1)N1C=CC=2C(=NC=CC21)Br | C14H11BrN2
reactant | piperazine | 8 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-Benzyl-4-(1-piperazinyl)-1H-pyrrolo[3,2-c]pyridine | C(C1=CC=CC=C1)N1C=CC=2C(=NC=CC21)N2CCNCC2 | C18H20N4
